Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Are you guys the psychiatrists?" 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ year old woman, history of polysubstance abuse with 
recent heavy alcohol dependence, anxiety, panic attacks, and 
recent diagnosis of hepatitis C who initially presented to ___ 
with two seizures, believed to be secondary to alcohol 
withdrawal; subsequently admitted to ___ 4 for severe 
anxiety and concern for her ability to care for self. 
.
Per Dr. ___ initial psychiatry consultation note dated 
___, Ms. ___ was discharged from ___ ___ 
for alcohol detox, acute hepatitis, and seizures. Work up at 
___ showed negative head CT and EEG, therefore seizures 
were thought to be secondary to alcohol withdrawal. Also found 
to be hepatitis C positive on this admission. She was discharged 
with 8 x lorazepam 1 mg q6h prn anxiety and the understanding 
that she would follow up with her outpatient provider in the 2 
days post discharge. She reports
not being able to get an appointment until ___, so contacted 
primary care offices of Dr. ___ at ___. Patient reports that 
Dr. ___ was concerned about "cancer screening numbers 
that were sky high" and left several messages with her. Saw her 
PCP ___ ___, where patient says medical staff prioritized her 
liver tests and acute hepatitis ___ records also indicate 
patient received 30 x1mg lorazapam perscripion for prn anxiety). 

.
Ms. ___ reported she took last lorazapam at 0900 on ___, 
then had an unwitnessed seizure at 1550 followed by a second 
seizure while her mother drove her to hospital (lasted ___ 
minutes, stiffening without clonic activity per patient). Also 
denies any alcohol between discharge form ___ and ___ 
___, when she had pproximately 2 pints of vodka. 
.
She reports having experienced "between 7 and 12 seizures" with 
er first occurring approximately ___ years ago in the setting of 
alcohol detox. No known childhood seizures. Reports two 
childhood head injuries and one car accident in the past ___ 
years where she broke clavicle, but had no loss of 
consciousness. 
.
Prior to seizures, she gets a "tingling in her cheeks" and 
"alkaline taste in my mouth." She reports having broken teeth 
during seizures, confusion on regaining consciousness, and 
"bloody rust taste" in her mouth accompanied
by urinary and bowel retention after seizures. 
.
Ms. ___ relates that the onset of her anxious symptoms and 
subsequent substance use dates back to her marriage and 
subsequent abuse from her husband, which is further detailed in 
the social history below. 
.
On initial exam, she reports that she is "hopeless that I can go 
back to my
normal self." She "spends most the day hiding under the covers." 
She has not had a good/normal-feeling day "probably since I got 
married." She says "I don't take joy in things I used to take 
joy in... probably for the last ___ years." She is not currently 
worried that she will die. She recollections with a smile fond 
memories of better times and the optimism she used to carry with
her in the past.  
.
She says that she has not eaten much for months. She feels 
guilty about the situation she has created for her children and 
mother (also detailed below). She reports a long-standing 
difficulty with concentration and describes being overwhelmed 
when asked to multi-task. She reports baseline "forgetfulness" 
but a gradual improvement of her more-recent attention problems 
over the last month. She describes intermittent periods without 
sleeping, "3, 4 days" after which she takes Seroquel and is able 
to sleep. During these times, she experiences some perceptual 
difficulties with "walls waving and fuzzy shadows" but no other 
AVH. She does not report impulsive activities or grandiosity 
during these occasions. Denies OCD symptoms. Denies any drug use 
or psychiatric symptoms from onset of first pregnancy until she 
stopped breastfeeding ___ years later.  
.
She reports "night terrors" wherein she relives former abusive 
trauma. These have returned as she has engaged in therapy over 
the last year where "things have been coming out, memories" that 
are often re-lived in "wild, crazy nightmares." Although she 
denies specifically avoiding any place or situation that reminds 
her of being traumatized, she responds "I don't leave the house
at all." She reports sitting on her couch, dressed, with purse 
in hand and in tears because she is unable to go outside. She is 
currently situated to join a partial outpatient program from 
___, but feels she will be unable to do so because of her 
inability to leave the house. 
.
She reports having "panic attacks" at home, sometimes "three, 
even four times" in a day. These begin with racing heart beat 
and pain "like I'm having a heart attack" followed by extreme 
fear and "feeling crazy." She reports taking 4mg ativan 
eventually stops these. 
 
Past Medical History:
Past psychiatric history:
Per Dr. ___ note on ___ and updated with the
patient: 
Hospitalizations: No prior psychiatric hospitalizations
Current treaters and treatment: She has an appointment to see a
therapist at "The door is open" on ___. Reports that she began
therapy with a different therapist one year ago, but no longer
wishes to see this therapist because "he says weird stuff."
Previously seen Dr. ___, but reports that "the pills just
made me fall asleep, I couldn't drive my kids anywhere." 
Medication and ECT trials: Reported some previous success with
citalopram, although unsure of dosage, timing, reason for
discontinuing. No experience with methadone, unclear history of
suboxone use. Skeptic of naltrexone No experience with ECT. 
Self-injury: Denies
Harm to others: Denies
Access to weapons: Denies

Past medical history:
Hepatitis C - with transaminitis 
EtOH withdrawal Sz
Hematemesis - 1 month ago
Low TSH - c/f hypothyroidism
Appendectomy
Horseshoe kidney c/b vesicouteral reflux 
recurrent pyelonephritis 

 
Social History:
Substance use history: Per Dr. ___ note on ___ 
Endorses heroin use starting over the summer. Denies 
needle-sharing. States she has not used in 1 month. Tried 
marijuana and mushrooms in college. Says that she has extensive 
history of using prescribed benzodiazapines. EtOH approximately 
___ pints/day, since she stopped breastfeeding in order to cope 
with her abusive marriage, with some intermittent periods of 
sobriety. States last drink on ___ when she drank a pint of 
vodka. Denies cocaine, crack, ecstasy.

Personal and Social History:
Originally from ___, was an average student and a 
successful ___. Reports no history of body image issues 
saying "I'd eat two cheeseburgers before a contest." Also denies 
any history of self-harm. Later attended various ___ in 
___ and ___ and worked as ___ and ___. She 
has two children, aged ___ and ___. Married for ___ years, Ms. 
___ describes systematic physical abuse, intimidation, and 
torture that began on her wedding night. These included holding 
guns and chainsaws to her head in front of her children and 
frequent threats on her life. She reports that her ex-husband 
made several apparent gestures in attempts to coax
Ms. ___ and ___ children back, including threatening his own 
life. He is currently imprisoned as a result of returning to 
their neighborhood with a shotgun and, Ms. ___ believes, 
intention to kill her. He is to be released in the coming 
months. Per primary team's report, she has some relationship 
with legal counsel and is actively seeking a restraining order. 
Last month
she voluntarily handed her children over to her mother and aunt 
because she felt she could not care for them. Currently her 
mother stays with her almost the entire day, and feels guilty 
that Ms. ___ was drinking while she was away ___.

 
Family History:
Father with depression, no history of
bipolar disorder or schizophrenia in her family. No known family
hx of attempted or completed suicide.
Of note, has 2 maternal cousins with epilepsy. Reports that 3 of 
her best friends have completed suicides. The first in high 
school. A second friend died after high school after dropping 
out of a good college and becoming addicted to heroin. Her 
daughter ___ carries her name. A third friend committed 
suicide more recently.

Paternal GM: lung cancer  
Maternal GM: colon cancer, lung cancer  
Father: hypertension, CAD, PVD  
Mother: hypertension, fibromyalgia  

 
Physical Exam:
Physical Examination:
VS:  BP: 132/97  HR: 69  temp: 98.7 resp: 16 O2 sat: 99%  
height:
5'3"  weight: 136.2
General-  Patient in NAD, alert and engaged
Skin- No rashes
HEENT- full ROM, able to touch chin to chest
Neck and Back- no gross deformities
Lungs- CTAB
CV- RRR no murmur
Abdomen: soft, ND, NT, normal BS
Extremities- no deformities, strength full as below
Neuro-
Cranial Nerves-
       I: not tested
       II: PERRL 
      III, IV, VI:  EOMI 
      V, VII: symmetric sensation, symmetric smile and eye
closure
      VIII: intact hearing bilaterally 
      IX, X: symmetrical palate elevation
      XI: sternocleidomastoid and trapezius ___ strength 
      XII: tongue midline, no fasciculations
Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left       ___ strength all   
Right      ___ strength all 
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left       ___ strength all 
Right      ___ strength all 
*Deep tendon Reflexes:
       Bicip:  Tric:  Brachial:  Patellar:  
Left          2+ all
Right         2+ all
 
Sensation:  intact, symmetric 
Coordination:
     Rapid Alternating Hand Movements  intact
     Heel to shin  intact 
Gait/Romberg:  normal gait, negative romberg
 
Neuropsychiatric Examination:
  *Appearance:  Patient appears anxious, in home clothing,
appears stated age, appropriately groomed
  Behavior:  patient is anxious and intermittently bursts into
tears, but cooperative 
  *Mood and Affect: "I'm full of anxiety", anxious, dysthymic 
  *Thought process: linear tangential, goal-oriented, no LOA
  *Thought Content: denies delusions, AVH hallucinations, 
current
SI or HI, she endorses a history of VH seeing walls as blurry
after several days of not sleeping (lack of sleep in context of
trauma).
  *Judgment and Insight:  fair/fair 
  Cognition:  
    *Attention, *orientation, and executive function:  A+O x 3,
able to perform MOYB with single omission of ___
    *Memory: ___ objects at registration and ___ objects
spontaneous recall 
    *Fund of knowledge: Average
    Calculations: $2.25 - 5
    Abstraction: Describes the meaning of "the grass is greener
on the other side" as: "when somebody thinks that the other
person has it better"
    Visuospatial:  no gross deficit
    *Speech:  normal prosody and tone 
    *Language:  fluent ___

 
Pertinent Results:
___ 08:15AM   GLUCOSE-121* UREA N-8 CREAT-0.6 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-25 ANION GAP-15
___ 08:15AM   ALT(SGPT)-1085* AST(SGOT)-622* CK(CPK)-17* 
ALK PHOS-146* TOT BILI-3.2*
___ 08:15AM   CALCIUM-9.3 PHOSPHATE-3.1 MAGNESIUM-2.0 
IRON-152
___ 08:15AM   FREE T4-0.92*
___ 08:15AM   WBC-5.2 RBC-4.56 HGB-14.7 HCT-43.5 MCV-95 
MCH-32.1* MCHC-33.7 RDW-13.5
___ 08:15AM   PLT COUNT-189
___ 08:15AM   ___
___ 09:55AM URINE  opiates-NEG cocaine-NEG amphetmn-NEG
___ 08:20AM   HBsAg-NEGATIVE HBs Ab-NEGATIVE HBc 
Ab-NEGATIVE HAV Ab-NEGATIVE IgM HBc-NEGATIVE IgM HAV-NEGATIVE
___ 08:20AM   HIV Ab-NEGATIVE
___ 08:20AM   HCV Ab-POSITIVE*
___ 08:20AM   TSH-0.24*
___ 08:20AM   VIT B12-___*
 
Brief Hospital Course:
#Legal: ___
#Safety: She was maintained on q15 min checks throughout 
admission and displayed no unsafe behaviors; consistently denied 
SI/HI, or thoughts of self harm. 

#Psychiatric:
- PTSD, mood d/o, panic d/o with agoraphobia: Pt continued to 
appear anxious on the unit, but was able to participate in 
milieu intermittently. She initially displayed difficulty in 
attending to ADLs, but with support, was able to attend to 
self-care in the days leading up to discharge. In terms of a 
long-term management option for her anxiety, she was started on 
Celexa and eventually titrated up to 30 mg Qdaily.  The patient 
was already taking Seroquel prior to admission, and this was 
uptitrated to a regimen of 25 mg TID with additional 100 mg QHS. 
 Ativan was continued at 1 mg TID prn anxiety. Additionally, 
Abilify was initiated at 5 mg QHS and clonidine was started and 
uptitrated to 0.3 mg daily patch in order to adjunctively treat 
her anxiety andd depression symptoms.  She was also initiated on 
Ritalin 5mg po daily for treatment of poor concentration and 
attention, and for improved motivation in the mornings, which 
she tolerated well. The patient was encouraged to engage in 
group therapy, and she was forthcoming during individual 
meetings with the treatment team. CVPR was involved with the 
patient prior to admission, and they continued to be a support 
to the patient while she was admitted. At the time of discharge, 
patient reported that symptoms of anxiety and depression had 
improved significantly, denied SI/HI, thoughts of self harm, and 
was noted to be future and goal oriented.  

Polysubstance abuse, alcohol vs benzo withdrawal:  The patient 
continued to appear anxious, tremulous, and distraught on 
admission, however she was not scoring on CIWA.  Thus, CIWA was 
discontinued 2 days after inpatient psychiatric admission.  She 
was continued on a daily MVI/thiamine/folate supplementation 
regimen.  Seizure precautions were enacted given her recent 
history of questionable seizure activity after withdrawing from 
substances.  Patient was educated about substance use on the 
unit and encouraged to attend SMART recovery programming.

#Medical:
1. New diagnosis hepatitis C - Patient reports negative HCV 
testing this past ___ and had positive HCV Ab x2 during 
medicine admission. AST/ALT elevated in the ~1000 range, with 
elevated AFP (~60), and T. Bili (3.0). This picture is most 
consistent with acute HCV infection. She had normal INR and no 
evidence of encephalopathy, so there was no concern for acute 
liver failure. RUQ u/s was unremarkable and w/o evidence of 
thrombosis. APAP level negative. HBV/HAV serologies negative. 
Only other notable results were elevated IgM and weakly positive 
AMA antibody. Her LFT abnormalities were downtrending and plan 
is for her to follow up with outpatient hepatology (scheduled) 
for repeat HCV viral load to see if she spontaneously clears the 
virus.

2. Hypothyroidism - Patient had a low TSH (0.24) and a 
borderline low free T4 (0.92) on admission. Patient was 
encouraged to have her TFTs rechecked in the next 3 months by 
her PCP who will determine the need for thyroid medication at 
that time. Thyroid testing can be acutely affected by new onset 
illness and hospitalization, thus retesting is warranted.

3.  Bacterial Vaginosis: patient complained of vagianl discharge 
and was seen by Ob-Gyn, who recommended Metrogel x7 days. 
Patient tolerated this treatment well with improvement in 
symptoms-- she will follow-up with her PCP as an outpatient. 

#Risk Assessment: The patient has a longstanding history of 
polysubstance abuse, is single, has few social supports, lack of 
stable outpatient providers prior to admission, and has 
___ medical issues, which place her at some risk of 
self-harm. Additionally, her recent voluntary transfer of care 
to her children is also concerning for the patient's ability to 
care for self and can often be a warning sign for 
self-harm/suicide. While the patient denied current SI and 
history of SA, her poor coping skills and lack of connection 
with outpatient providers in addition to recent psychosocial 
stressors including substance use relapse places her at acutely 
elevated risk of self-harm/suicide. Protective factors include 
help-seeking behavior, no history of violence, and compliance 
with medical care. At discharge, she denied SI/HI and cited 
numerous coping skills that she could utilize if she felt unsafe 
in the community.
 
Medications on Admission:
1. Thiamine 100 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Lorazepam 1 mg PO Q6H:PRN withdrawal 
4. Pantoprazole 40 mg PO Q24H 
5. QUEtiapine Fumarate 25 mg PO QHS:PRN insomnia
 
Discharge Medications:
1. Lorazepam 1 mg PO QAM 
2. Lorazepam 1 mg PO BID:PRN anxiety 
RX *lorazepam [Ativan] 1 mg 1 tabe by mouth three times a day 
Disp #*42 Tablet Refills:*0
3. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Nicotine Patch 7 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 7 mg/24 hour apply daily daily Disp 
#*14 Patch Refills:*0
5. Pantoprazole 40 mg PO Q24H 
6. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. Aripiprazole 5 mg PO QHS 
RX *aripiprazole [Abilify] 5 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0
8. Citalopram 30 mg PO DAILY 
RX *citalopram [Celexa] 20 mg 1.5 tablet(s) by mouth daily Disp 
#*21 Tablet Refills:*0
9. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QMON 
RX *clonidine 0.3 mg/24 hour apply one patch daily and remove 
old patch daily Disp #*14 Patch Refills:*0
10. MethylPHENIDATE (Ritalin) 5 mg PO QAM 
RX *methylphenidate [Ritalin] 5 mg 1 tablet(s) by mouth daily in 
morning Disp #*14 Tablet Refills:*0
11. Metronidazole Gel 0.75%-Vaginal 1 Appl VG HS Duration: 7 
Doses 
RX *metronidazole 0.75 % apply vaginally for 5 days then stop at 
bedtime Disp #*1 Tube Refills:*0
12. Mirtazapine 15 mg PO HS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0
13. QUEtiapine Fumarate 100 mg PO QHS 
RX *quetiapine 50 mg ___ tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0
14. QUEtiapine Fumarate 25 mg PO QAM anxiety 
15. QUEtiapine Fumarate 25 mg PO BID:PRN agitation/anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PTSD
panic disorder
alcohol/benzo/opiate use disorder
 
Discharge Condition:
Improved, stable
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___